US09101616B2
Step-1: 5-(2-fluorobenzyloxy)picolinonitrile
To a mixture of 2-bromo-5-(2-fluorobenzyloxy)pyridine (1.5 g, 5.3 mmol) and zinc cyanide (0.81 g, 6.9 mmol) in DMF (20 mL) was added Tetrakis(triphenylphosphine)palladium(0) (0.61 g, 0.53 mmol) at room temperature. After being stirred at 60° C. for 4 hours, sat. sodium bicarbonate aqueous solution was added to the mixture. The mixture was filtered off through a pad of Celite. The filtrate was extracted with ethyl acetate, dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (2:1 (v/v)) to give 0.69 g (57% yield) of the title compound as a light yellow solid:

reactant | 2-bromo-5-(2-fluorobenzyloxy)pyridine | 5.3 mmol, 1.5 g | BrC1=NC=C(C=C1)OCC1=C(C=CC=C1)F | C12H9BrFNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 6.9 mmol, 0.81 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.53 mmol, 0.61 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-fluorobenzyloxy)picolinonitrile | 0.69 g, 57% yield | FC1=C(COC=2C=CC(=NC2)C#N)C=CC=C1 | C13H9FN2O
